US04484993
CF3COCH2Br (1.91 gr, 10 mmol), CF3CO2C2H5 (1.42 gr, 10 mmol), and zinc powder (1.3 gr) were put into a flask (100 ml) together with a mixed solvent comprising tetrahydrofuran (20 ml) and dimethylformamide (10 ml), and they were subjected to the reaction for a period of one hour while being irradiated with ultrasonic waves by means of an ultrasonic cleaner (35W, 32 kHz). After the reaction, impurities contained in the mixed liquid were filtered, then water (500 ml) was added to the filtered liquid, whereby an oil layer generated was extracted by means of diethylether. After drying the extracted liquid with magnesium sulfate, the solvent was removed. The product (CF3COCH2COCF3) (bp: 70° to 72° C.) was obtained through distillation with a yield by 69%.

reactant | CF3COCH2Br | 10 mmol, 1.91 gr | C(F)(F)(F)C(=O)CBr | C3H2BrF3O
reactant | CF3CO2C2H5 | 10 mmol, 1.42 gr | C(F)(F)(F)C(=O)OCC | C4H5F3O2
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
catalyst | zinc | 1.3 gr | [Zn] | Zn
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | CF3COCH2COCF3 | C(F)(F)(F)C(=O)CC(=O)C(F)(F)F | C5H2F6O2
